US06479536B1
2-Methyl-3-(4-methylphenyl)-2-propen-1-ol
To a suspension of ethyl 2-methyl-3-(4-methylphenyl)-2-propenoate (26.31 g, 128.8 mmol) and cerium chloride (10.32 g, 41.89 mmol) in tetrahydrofuran (120 ml) was added in four portions at −40° C. over a period of 30 minutes lithium aluminum hydride (4.89 g, 129 mmol) and the resulting mixture was stirred at the same temperature for 30 minutes. Water was added into the reaction solution and the product was extracted twice with ethyl acetate. The combined extracts were washed with water, dried on magnesium sulfate, and then concentrated under reduced pressure to obtain 8.87 g (42% yield) of the oily title compound.

reactant | ethyl 2-methyl-3-(4-methylphenyl)-2-propenoate | 128.8 mmol, 26.31 g | CC(C(=O)OCC)=CC1=CC=C(C=C1)C | C13H16O2
reactant | cerium chloride | 41.89 mmol, 10.32 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 129 mmol, 4.89 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-Methyl-3-(4-methylphenyl)-2-propen-1-ol | 8.87 g, 42% yield | CC(CO)=CC1=CC=C(C=C1)C | C11H14O
